US07691902B2
To a solution of 3-chloro-4-hydroxy-benzaldehyde (5.0 g, 32 mmol) and BnBr (6.6 g, 38 mmol) in CH3CN (100 mL) was added K2CO3 (8.8 g, 64 mmol). The mixture was heated at reflux for 2 hours. The resulting mixture was poured into water (100 mL), and extracted with EtOAc (100 mL×3). The combined organic layers were washed with brine, dried over anhydrous Na2SO4 and evaporated under vacuum to give crude product, which was purified by column (petroleum ether/EtOAc 15:1) to give 4-benzyloxy-3-chloro-benzaldehyde (7.5 g, 95%). 1H NMR (CDCl3, 400 MHz) δ 9.85 (s, 1H), 7.93 (d, J=2.0 Hz, 1H), 7.73 (dd, J=2.0, 8.4 Hz, 1H), 7.47-7.34 (m, 5H), 7.08 (d, J=8.8 Hz, 1H), 4.26 (s, 2H).

reactant | 3-chloro-4-hydroxy-benzaldehyde | 32 mmol, 5.0 g | ClC=1C=C(C=O)C=CC1O | C7H5ClO2
reactant | BnBr | 38 mmol, 6.6 g | C1=CC=C(C=C1)CBr | C7H7Br
reactant | K2CO3 | 64 mmol, 8.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | 4-benzyloxy-3-chloro-benzaldehyde | 7.5 g, 95% | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)Cl | C14H11ClO2
